US05627182
a) 5(S)-Tert-butoxycarbonylamino-4(S)-hydroxy-2(S),7(S)-diisopropyl-8-[4-methoxy-3-(3-methoxypropyloxy)-phenyl]-octanoic acid [N-(1-carbamoyl-1-methyl-ethyl)]-amide
5 mg of p-toluenesulfonic acid (monohydrate) are added to 82 mg of 3-tert-butoxycarbonyl-5(S)-{2-[N-(1-carbamoyl-1-methyl-ethyl)-carbamoyl]-2(S)-isopropyl-ethyl}-4(S)-{2(S)-isopropyl-3-[4-methoxy-3-(3-methoxypropyloxy)-phenyl]-propyl}-2,2-di-methyl-1,3-oxazolidine in 5 ml of methanol at 0° C. The reaction solution is stirred for a further 18 hours at room temperature. After evaporation of the solvent, 20 ml of saturated sodium hydrogen carbonate solution are added to the residue and extraction is carried out repeatedly with ethyl acetate. The organic extracts are concentrated by evaporation and purified by means of FC (35 g of silica gel, dichloromethane/methanol=9:1). The title compound is obtained: Rf (dichloromethane/methanol=9:1)=0.47.

reactant | p-toluenesulfonic acid | 5 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 3-tert-butoxycarbonyl-5(S)-{2-[N-(1-carbamoyl-1-methyl-ethyl)-carbamoyl]-2(S)-isopropyl-ethyl}-4(S)-{2(S)-isopropyl-3-[4-methoxy-3-(3-methoxypropyloxy)-phenyl]-propyl}-2,2-di-methyl-1,3-oxazolidine | 82 mg | C(C)(C)(C)OC(=O)N1C(O[C@H]([C@@H]1C[C@H](CC1=CC(=C(C=C1)OC)OCCCOC)C(C)C)C[C@@H](C(C)C)C(NC(C)(C)C(N)=O)=O)(C)C | C37H63N3O8
solvent | methanol | 5 ml | CO | CH4O
product | 5(S)-Tert-butoxycarbonylamino-4(S)-hydroxy-2(S),7(S)-diisopropyl-8-[4-methoxy-3-(3-methoxypropyloxy)-phenyl]-octanoic acid [N-(1-carbamoyl-1-methyl-ethyl)]-amide | C(N)(=O)C(C)(C)NC([C@@H](C[C@@H]([C@H](C[C@H](CC1=CC(=C(C=C1)OC)OCCCOC)C(C)C)NC(=O)OC(C)(C)C)O)C(C)C)=O | C34H59N3O8
